US08193164B2
Intermediate RA N-[(1S,2R,3S,4R)-4-(6-{[Bis-(4-methoxy-phenyl)-methyl]-amino}-2-chloro-purin-9-yl)-2,3-dihydroxy-cyclopentyl]-propionamide
To a solution of N-[(1S,2R,3S,4R)-4-(2,6-dichloro-purin-9-yl)-2,3-dihydroxy-cyclopentyl]-propionamide (Intermediate AA6) (2.6 g, 7.22 mmol) in dry THF (26 mL) was added bis-(4-methoxy-phenyl)-methylamine (3.5 g, 14.44 mmol). The mixture was stirred at 50° C. for 12 hours, then cooled and solvent was removed under reduced pressure. The residue was taken up in chloroform and washed sequentially with 1.5 N HCl, water and saturated aqueous brine solution. The organic phase was dried over anhydrous sodium sulphate and concentrated to give the crude title compound. Purification by flash column chromatography over silica gel (60-120 mesh) using 2% MeOH in chloroform as eluant, gave the pure title compound (2.2 g, 54%). LC-MS (0.1% formic acid, acetonitrile): 567 (M+)

reactant | N-[(1S,2R,3S,4R)-4-(2,6-dichloro-purin-9-yl)-2,3-dihydroxy-cyclopentyl]-propionamide | 7.22 mmol, 2.6 g | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)Cl | C13H15Cl2N5O3
reactant | bis-(4-methoxy-phenyl)-methylamine | 14.44 mmol, 3.5 g | COC1=CC=C(C=C1)N(C)C1=CC=C(C=C1)OC | C15H17NO2
reactant | THF | 26 mL | C1CCOC1 | C4H8O
product | N-[(1S,2R,3S,4R)-4-(6-{[Bis-(4-methoxy-phenyl)-methyl]-amino}-2-chloro-purin-9-yl)-2,3-dihydroxy-cyclopentyl]-propionamide | 2.2 g, 54% | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)NC1=C2N=CN(C2=NC(=N1)Cl)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O | C28H31ClN6O5
